### PR TITLE
feat(Combinatorics/SimpleGraph/Girth): `G.egirth ≤ 2 * G.ediam + 1`

### PR DESCRIPTION
**Pull request by Mal-Pat**
Add the lemma `G.egirth ≤ 2 * G.ediam + 1` given that G is not acyclic.

---

- [ ] depends on: #40801 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Girth.lean [hunk 1]
```diff
@@ -78,6 +78,23 @@ lemma IsContained.egirth_le (h : G ⊑ G') : G'.egirth ≤ G.egirth := by
 lemma Iso.egirth_eq (f : G ≃g G') : G.egirth = G'.egirth :=
   le_antisymm f.isContained'.egirth_le f.isContained.egirth_le
 
+lemma egirth_le_two_ediam_plus_one (h : ¬ G.IsAcyclic) : G.egirth ≤ 2 * G.ediam + 1 := by
```
Comment (LLaurance) [inline Mathlib/Combinatorics/SimpleGraph/Girth.lean]:
```suggestion
lemma egirth_le_two_mul_ediam_add_one (h : ¬ G.IsAcyclic) : G.egirth ≤ 2 * G.ediam + 1 := by
```

**Comment by Mal-Pat** [comment]
Made the suggested changes.

File: Mathlib/Combinatorics/SimpleGraph/Girth.lean [hunk 2]
```diff
@@ -78,6 +78,23 @@ lemma IsContained.egirth_le (h : G ⊑ G') : G'.egirth ≤ G.egirth := by
 lemma Iso.egirth_eq (f : G ≃g G') : G.egirth = G'.egirth :=
   le_antisymm f.isContained'.egirth_le f.isContained.egirth_le
 
+lemma egirth_le_two_mul_ediam_add_one (h : ¬ G.IsAcyclic) : G.egirth ≤ 2 * G.ediam + 1 := by
+  obtain ⟨u, w, hw, hwl⟩ := exists_egirth_eq_length.mpr h
+  have half_g_le_edist : ↑(w.length / 2) ≤ G.edist u (w.getVert (w.length / 2)) := by
+    have ⟨p,_⟩ := ((w.take (w.length / 2)).reachable).exists_walk_length_eq_edist
+    by_contra! hlt; classical
+    have ⟨x,_,_,c,c_cycle,c_len⟩ := Walk.IsPath.exists_isCycle_length_le_add_of_ne
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Girth.lean:86]:
```suggestion
    have ⟨x, _ , _, c, c_cycle, c_len⟩ := Walk.IsPath.exists_isCycle_length_le_add_of_ne
```

File: Mathlib/Combinatorics/SimpleGraph/Girth.lean [hunk 3]
```diff
@@ -78,6 +78,23 @@ lemma IsContained.egirth_le (h : G ⊑ G') : G'.egirth ≤ G.egirth := by
 lemma Iso.egirth_eq (f : G ≃g G') : G.egirth = G'.egirth :=
   le_antisymm f.isContained'.egirth_le f.isContained.egirth_le
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Girth.lean:80]: Perhaps we can add `open Walk in` here and remove instances of it below?

File: Mathlib/Combinatorics/SimpleGraph/Girth.lean [hunk 4]
```diff
@@ -78,6 +78,23 @@ lemma IsContained.egirth_le (h : G ⊑ G') : G'.egirth ≤ G.egirth := by
...
 
+lemma egirth_le_two_mul_ediam_add_one (h : ¬ G.IsAcyclic) : G.egirth ≤ 2 * G.ediam + 1 := by
+  obtain ⟨u, w, hw, hwl⟩ := exists_egirth_eq_length.mpr h
+  have half_g_le_edist : ↑(w.length / 2) ≤ G.edist u (w.getVert (w.length / 2)) := by
+    have ⟨p,_⟩ := ((w.take (w.length / 2)).reachable).exists_walk_length_eq_edist
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Girth.lean:84]:
```suggestion
    have ⟨p, _⟩ := ((w.take (w.length / 2)).reachable).exists_walk_length_eq_edist
```

**Review by Rida-Hamadani — COMMENTED** [review]
This duplicates #25834, with some improvements, but the overall proof is similar, so it could have been a review to that PR in my opinion.

**Comment by YaelDillies** [comment]
Whoops sorry Rida, I was the one to tell @Mal-Pat to open a PR. However it does look like the proof here is a bit better than the one in your PR? In partic it needn't assume connectedness. How would you like us to proceed?

**Comment by Mal-Pat** [comment]
Sorry, I was not aware of #25834

I'll close this PR then and contribute to #25834
